US08609653B2
A solution of methyl 6-amino-5-formyl-2-methyl-4-(p-tolyl)nicotinate (2.45 g, 8.62 mmol) and Cs2CO3 (5.62 g, 17.23 mmol) in methanol (70 ml) was treated with TMS-diazomethane (2M in hexane) (17.23 ml, 34.5 mmol) dropwise at 60° C. The mixture was stirred at 60° for 1 hour, cooled to rt, quenched with sat NH4Cl, extracted with EtOAc, washed with water, Brine, dried with Na2SO4, filtered, and concentrated to afford methyl 6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (2.15 g, 7.67 mmol, 89% yield): 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.86 (br. s., 1 H), 7.40 (d, J=8.1 Hz, 2 H), 7.31-7.26 (m, 3 H), 6.43 (dd, J=2.0, 3.5 Hz, 1 H), 3.64 (s, 3 H), 2.71 (s, 3 H), 2.43 (s, 3 H); LCMS (m/z) ES+=281 (M+1).

reactant | methyl 6-amino-5-formyl-2-methyl-4-(p-tolyl)nicotinate | 8.62 mmol, 2.45 g | NC1=NC(=C(C(=O)OC)C(=C1C=O)C1=CC=C(C=C1)C)C | C16H16N2O3
reactant | Cs2CO3 | 17.23 mmol, 5.62 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | TMS-diazomethane | 34.5 mmol, 2M, 17.23 ml | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 70 ml | CO | CH4O
product | methyl 6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 7.67 mmol, 2.15 g, 89% yield | CC1=C(C(=C2C(=N1)NC=C2)C2=CC=C(C=C2)C)C(=O)OC | C17H16N2O2
